US06010981
A) 2-Methyl-3-(2-methylphenyl)nitrobenzene (2,2'-Dimethyl-3-nitrobiphenyl)
A mixture of 81 mg (0.36 mmol) of palladium(II) acetate and 330 mg (1.1 mmol) of tri-o-tolylphosphine in 100 mL of dry 1,2-dimethoxyethane was stirred for 15 min and then 3.2 g (12 mmol) of 3-iodo-6-nitrotoluene was added with stirring. After 15 min, 2.2 g (16 mmol) of 2-methylphenylboronic acid in 15 mL of ethanol and 8.3 g (6.0 mmol) of potassium carbonate in 15 mL of water were added and the mixture was heated to 85° C. with stirring for 2 hours. The mixture was then allowed to cool and was diluted with water. The resulting mixture was extracted with ether and the ethereal extract was filtered, washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The about 5 g of residue, which was the title compound in impure form, was used without purification.

reactant | tri-o-tolylphosphine | 1.1 mmol, 330 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 3-iodo-6-nitrotoluene | 12 mmol, 3.2 g | IC=1C=C(C(=CC1)[N+](=O)[O-])C | C7H6INO2
reactant | 2-methylphenylboronic acid | 16 mmol, 2.2 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 6.0 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
catalyst | palladium(II) acetate | 0.36 mmol, 81 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Methyl-3-(2-methylphenyl)nitrobenzene | CC1=C(C=CC=C1C1=C(C=CC=C1)C)[N+](=O)[O-] | C14H13NO2
